US07851473B2
(2) N-(3,4-Dimethylisoxazol-5-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
A mixed solution of 2,2,2-trichloroethyl (3,4-dimethylisoxazol-5-yl)carbamate (212 mg, 0.738 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (200 mg, 0.812 mmol) and diisopropylethylamine (0.141 ml, 0.812 mmol) in dimethyl sulfoxide (2.5 ml) was stirred at 70° C. for 3 hours. Water was poured to the reaction mixture, and the resulting solution was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 126 mg (44.3%) of the desired product as a solid.

reactant | 2,2,2-trichloroethyl (3,4-dimethylisoxazol-5-yl)carbamate | 0.738 mmol, 212 mg | CC1=NOC(=C1C)NC(OCC(Cl)(Cl)Cl)=O | C8H9Cl3N2O3
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.812 mmol, 200 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 0.812 mmol, 0.141 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | N-(3,4-Dimethylisoxazol-5-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | 126 mg, 44.3% | CC1=NOC(=C1C)NC(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC=CC=C1 | C18H20N6O2S
